US05075208
Synthesis of 2-Methyl-4-chloromethyl-5-(4-nitrophenyl)-3-isooxazolone
After cooling 76 ml of concentrated nitric acid (specific gravity 1.42) to 0° C., 80 ml of concentrated sulfuric acid was gradually added thereto and further 9 g of 2-methyl-4 chloromethyl-5-phenyl-3-isooxazolone was added thereto as crystals thereof while keeping the temperature thereof below 5° C. The resultant mixture was stirred for 30 minutes at 5° C. and poured into 2 liters of ice water followed by stirring for one hour to deposit crystals, which were collected by filtration and dried to provide 9.4 g of the desired product. The yield was 87%.

reactant | nitric acid | 76 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyl-4 chloromethyl-5-phenyl-3-isooxazolone | 9 g | CN1OC(=C(C1=O)CCl)C1=CC=CC=C1 | C11H10ClNO2
product | 2-Methyl-4-chloromethyl-5-(4-nitrophenyl)-3-isooxazolone | 9.4 g, yield was 87% | CN1OC(=C(C1=O)CCl)C1=CC=C(C=C1)[N+](=O)[O-] | C11H9ClN2O4
